US04374139
To a mixture of 2.7 g of (-)-3-acetyl-N-methylmorphinan, 50 ml of benzene and 20 mg of potassium carbonate, was added dropwise 2.11 g of 2,2,2-trichloroethyl chloroformate in 10 ml of benzene. The reaction mixture was stirred at reflux temperature for 48 hours and after cooling it was diluted with 100 ml ether. The ether solution was extracted with 1 N hydrochloric acid (2×30 ml) and dried over magnesium sulfate. Removal of the solvent gave 2.8 g (66%) of crude (-)-3-acetylmorphinan-17-carboxylic acid (trichloroethyl)ester. For analysis, a sample of this compound was distilled, bp 230°-240° (0.1 mm), [α]25D-127.21° (c 1.11, MeOH).

reactant | (-)-3-acetyl-N-methylmorphinan | 2.7 g | C(C)(=O)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C19H25NO
reactant | 2,2,2-trichloroethyl chloroformate | 2.11 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (-)-3-acetylmorphinan-17-carboxylic acid (trichloroethyl)ester | 2.8 g, 66% | ClC(COC(=O)N1[C@H]2[C@@H]3CCCC[C@@]3(C=3C=C(C=CC3C2)C(C)=O)CC1)(Cl)Cl | C21H24Cl3NO3
